US08304419B2
Sodium borohydride (0.37 g, 9.78 mmol) was added to a 0° C. solution of 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde (1.70 g, 6.52 mmol) in methanol (26 ml). Gas evolution was observed and the reaction mixture was stirred at RT for 30 mins and evaporated. Sat'd NaHCO3 and CH2Cl2 were added to the residue and the aqueous layer was extracted with CH2Cl2 (4×20 mL). The combined organic phase was dried (Na2SO4), filtered and evaporated to give [4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-5-yl]methanol as a light yellow oil. A solution of this alcohol, imidazole (0.89 g, 13.0 mmol) and TBSCI (1.47 g, 9.78 mmol) in CH2Cl2 (22 mL) was stirred at RT overnight. Sat'd NaHCO3 was added and the aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic phase was dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (0-35% EtOAc/hexanes) to give the title compound (2.19 g, 89%) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.44 (s, 1H), 5.35 (s, 2H), 4.72 (s, 2H), 3.51 (t, J=8.2 Hz, 2H), 0.90-0.96 (m, 2H), 0.89 (s, 9H), 0.09 (s, 6H), 0.00 (s, 9H).

reactant | Sodium borohydride | 9.78 mmol, 0.37 g | [BH4-].[Na+]
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde | 6.52 mmol, 1.70 g | ClC=1N=CN(C1C=O)COCC[Si](C)(C)C | C10H17ClN2O2Si
solvent | methanol | 26 ml | CO | CH4O
product | [4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-5-yl]methanol | ClC=1N=CN(C1CO)COCC[Si](C)(C)C | C10H19ClN2O2Si
